US08461181B2
A mixture of 1.0 g of N1-ethyl-4-trifluoromethylbenzene-1,2-diamine, 1.05 g of isonicotinoyl chloride hydrochloride and 15 ml of pyridine was stirred for 4 hours at 60° C. Then, 0.94 g of WSC was added, and the mixture was stirred for 8 hours at 80° C. The reaction mixture was cooled down to room temperature. Into the reaction mixture was poured water, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with water and saturated saline, then, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.65 g of 1-ethyl-2-(pyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 221).

reactant | N1-ethyl-4-trifluoromethylbenzene-1,2-diamine | 1.0 g | C(C)NC=1C(=CC(=CC1)C(F)(F)F)N | C9H11F3N2
reactant | isonicotinoyl chloride hydrochloride | 1.05 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | WSC | 0.94 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
product | 1-ethyl-2-(pyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole | 0.65 g | C(C)N1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=CC=NC=C2 | C15H12F3N3
